US05019575
5-[2-(4-acetamidophenyl)ethenyl]-5,6-dihydro-1,3,4-thiadiazin-2(3H)one
A mixture containing 4.0 g of 1-chloro-4-(4-acetamidophenyl)-2-oxo-3-butene (J. Org. Chem., 28, 2446, 1963) and 2.3 g of hydrazinecarbothioic acid O-methylester in 150 ml of toluene was refluxed for 3 h. The crystals were filtered and washed with toluene. Yield 3.0 g (65%), mp. 235°-240° C.

reactant | 1-chloro-4-(4-acetamidophenyl)-2-oxo-3-butene | 4.0 g | ClCC(C=CC1=CC=C(C=C1)NC(C)=O)=O | C12H12ClNO2
reactant | hydrazinecarbothioic acid O-methylester | 2.3 g | COC(=S)NN | C2H6N2OS
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[2-(4-acetamidophenyl)ethenyl]-5,6-dihydro-1,3,4-thiadiazin-2(3H)one | C(C)(=O)NC1=CC=C(C=C1)C=CC1NNC(SC1)=O | C13H15N3O2S
